US07064215B2
Synthesis of 1H-Indazol-3-yl-N-[5-((6S,2R)-2,6-dimethylmorpholin-4-yl)-2-aminophenyl]carboxamide
To a solution of 1H-indazol-3-yl-N-[5-((6S,2R)-2,6-dimethyl-morpholin-4-yl)-2-nitrophenyl]carboxamide (1.0 equivalent) in ethanol was added 10% Pd/C (0.5 equivalents). The reaction vessel was repeatedly purged with nitrogen, and then the reaction was stirred under a hydrogen atmosphere (1 atm) for 18 hours. The product was filtered through Celite with ethanol. The solvent was removed to provide a brown solid which was used without purification. LC/MS (m/z) 366.2 (MH+), Rt 2.19 minutes.

reactant | 1H-indazol-3-yl-N-[5-((6S,2R)-2,6-dimethyl-morpholin-4-yl)-2-nitrophenyl]carboxamide | 1.0 equivalent | N1N=C(C2=CC=CC=C12)C(=O)NC1=C(C=CC(=C1)N1C[C@H](O[C@H](C1)C)C)[N+](=O)[O-] | C20H21N5O4
solvent | ethanol | C(C)O | C2H6O
catalyst | Pd/C | 0.5 equivalents | [Pd] | Pd
product | 1H-Indazol-3-yl-N-[5-((6S,2R)-2,6-dimethylmorpholin-4-yl)-2-aminophenyl]carboxamide | N1N=C(C2=CC=CC=C12)C(=O)NC1=C(C=CC(=C1)N1C[C@H](O[C@H](C1)C)C)N | C20H23N5O2
